US07897597B2
The general method described in Part A of Example 3 was followed. Triethyl orthopropionate (7.66 mL, 58.1 mmol) was added in lieu of triethyl orthoacetate to a solution of 7-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine (18.68 g, 58.11 mmol) in xylenes (200 mL). At the end of the reaction, the precipitate was collected in three crops to provide 7.16 g of 7-benzyloxy-2-ethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline as a light-brown solid, mp 127° C.

reactant | Triethyl orthopropionate | 58.1 mmol, 7.66 mL | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | 7-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine | 58.11 mmol, 18.68 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCC(C)C | C20H23N3O
product | 7-benzyloxy-2-ethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 7.16 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)CC | C23H25N3O
